US08044075B2
To a mixture of 5-(aminosulfonyl)-2-chlorobenzoic acid (33 mg, 0.14 mmol) in THF in a vial was added PS-DCC (0.1 g, 0.155 mmol), PS-HOBt (0.12 g, 0.159 mmol) and then above crude 5-cyclohexyl-1,3,4-thiadiazol-2-amine (30 mg, 0.16 mmol). The reaction mixture in the vial was shaken for overnight. The reaction slurry was diluted with more THF, and filtrated to remove polymer bound reagents. The filtrate was concentrated, and then the residue was purified by using a Gilson preparative HPLC system with a Water Xterra (C-18) column 100 mm by 50 mm ID, eluting with 2% B to 90% B in 10 minutes, where A=H2O and B=CH3CN pumped at 150 mL/min to yield 5-(aminosulfonyl)-2-chloro-N-(5-cyclohexyl-1,3,4-thiadiazol-2-yl)benzamide (2.75 mg).

reactant | 5-(aminosulfonyl)-2-chlorobenzoic acid | 0.14 mmol, 33 mg | NS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO4S
reactant | DCC | 0.155 mmol, 0.1 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 0.159 mmol, 0.12 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 5-cyclohexyl-1,3,4-thiadiazol-2-amine | 0.16 mmol, 30 mg | C1(CCCCC1)C1=NN=C(S1)N | C8H13N3S
solvent | THF | C1CCOC1 | C4H8O
product | 5-(aminosulfonyl)-2-chloro-N-(5-cyclohexyl-1,3,4-thiadiazol-2-yl)benzamide | 2.75 mg | NS(=O)(=O)C=1C=CC(=C(C(=O)NC=2SC(=NN2)C2CCCCC2)C1)Cl | C15H17ClN4O3S2
